US07955664B2
84 g (0.531 mol) of 3,5-difluorosalicylaldehyde are dissolved in 850 ml of acrylonitrile, 1 g (8 mmol) of p-methoxyphenol and 18 g (0.16 mol) of DABCO are added, and the mixture is heated overnight at 75° C. The batch is evaporated, the residue is taken up in dichloromethane, and the solution is filtered through silica gel, giving 6,8-difluoro-2H-chromene-3-carbonitrile, which is sufficiently pure for further reactions.

reactant | 3,5-difluorosalicylaldehyde | 0.531 mol, 84 g | FC1=C(C(C=O)=CC(=C1)F)O | C7H4F2O2
reactant | p-methoxyphenol | 8 mmol, 1 g | COC1=CC=C(C=C1)O | C7H8O2
reactant | DABCO | 0.16 mol, 18 g | C1CN2CCN1CC2 | C6H12N2
solvent | acrylonitrile | 850 ml | C(C=C)#N | C3H3N
product | 6,8-difluoro-2H-chromene-3-carbonitrile | FC=1C=C2C=C(COC2=C(C1)F)C#N | C10H5F2NO
